US04469699
C-2. 5-(2-Amino-4-thiazolyl)-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile--A mixture containing 25.4 g of 5-bromoacetyl-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile, 7.9 g of thiourea and 100 ml of dimethylformamide was heated on a steam bath for 3 hours and then evaporated to dryness. The residual material was diluted with 100 ml of water followed by the addition of 10 ml of concentrated aqueous ammonium hydroxide. The resulting mixture was reacidified with acetic acid and the solid that separated was collected, washed with water and dried. The solid (15.8 g) was suspended in 400 ml of water and the mixture treated with 25 ml of concentrated ammonium hydroxide. The resulting mixture was stirred for 30 minutes and a small quantity of insoluble material was filtered off. The filtrate was concentrated on a rotary evaporator to a volume of about 200 ml and allowed to cool to room temperature. The crystalline precipitate was collected, washed with distilled water and dried in a vacuum oven at 90° C. to produce 7.3 g of 5-(2-amino-4-thiazolyl)-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile, m.p. 294°-296° C. with decomposition.

reactant | 5-bromoacetyl-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile | 25.4 g | BrCC(=O)C=1C=C(C(NC1C)=O)C#N | C9H7BrN2O2
reactant | thiourea | 7.9 g | NC(=S)N | CH4N2S
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-(2-amino-4-thiazolyl)-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile | 7.3 g | NC=1SC=C(N1)C=1C=C(C(NC1C)=O)C#N | C10H8N4OS
